US07304103B2
4-Tetradecylbenzenediazonium tetrafluoroborate (7).
The 4-tetradecylaniline was dissolved in a 1:1 mixture of acetonitrile and dry methylene chloride prior to addition to the nitrosonium tetrafluoroborate. Yield: 69%. MP, 82° C. IR (KBr) 3103.8, 2919.5, 2289.6, 1577.8, 1473.7, 1070.8, 1024.8, 844.5, 813.8, 716.9, 541.0, 510.2 cm−1. IR (KBr) 3103.8, 2919.5, 2289.6, 1577.8, 1473.7, 1070.8, 1024.8, 844.5, 813.8, 716.9, 541.0, 510.2 cm−1. 1H NMR (400 MHz, CDCl3) δ 8.02 (ABq, J=8.8 Hz, Δv=370.6 Hz, 4H), 2.76 (t, J=7.7 Hz, 2H), 1.61 (quin, J=7.8 Hz, 2H), 1.23 (s, 22H), 0.85 (t, J=7.0 Hz, 3H). 13C NMR (100 MHz, CDCl3) δ 159.92, 133.26, 131.94, 110.96, 37.49, 32.34, 30.87, 30.12, 30.10, 30.07, 30.04, 29.91, 29.78, 29.75, 29.72, 23.11, 14.55.

reactant | 4-tetradecylaniline | C(CCCCCCCCCCCCC)C1=CC=C(N)C=C1 | C20H35N
reactant | nitrosonium tetrafluoroborate | F[B-](F)(F)F.N#[O+]
reactant | KBr | [K+].[Br-]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Tetradecylbenzenediazonium tetrafluoroborate | Yield: 69% | F[B-](F)(F)F.C(CCCCCCCCCCCCC)C1=CC=C(C=C1)[N+]#N | InChI=1S/C20H33N2.BF4/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-19-15-17-20(22-21)18-16-19;2-1(3,4)5/h15-18H,2-14H2,1H3;/q+1;-1
